US04526787
Diethyl Pyridine-2,5-dicarboxylate.
To a suspension of 100 g (0.6 mol) of 2,5-pyridinedicarboxylic acid in 300 mL of absolute EtOH was added 100 mL of concentrated H2SO4 over a period of 1.5 h. During this time, the solid gradually all went into solution. The brown reaction mixture was refluxed for 16 h. Then 200 mL of benzene was added and the benzene/EtOH/H2O azeotrope was removed at the rate of 30 mL/30 min, with more 1:1 benzene/EtOH mixture added at 30-min intervals. After 5 h, the reaction mixture was poured onto 30 L of ice-water. Solid NaHCO3 was then added until the mixture was neutralized. The product was extracted into EtOAc. The EtOAc layer was washed with brine, dried (Na2SO4), and concentrated to 99.8 g of a yellow solid, which was purified on 400 g of silica gel (25% Et2O/hexane and 50% Et2O/hexane) to give 95 g of solid. Recrystallization from Et2O/hexane gave 90 g of the diethyl ester, diethyl pyridine-2,5-dicarboxylate, as pale yellow crystals, mp 46°-47° C.; IR (mull) 1730, 1710, 1600, 1375, 1280, 1250, 1100, 1030, 750 cm-1 ; 1H NMR (CDCl3) δ1.47 and 1.50 (2 t, J=7.5 Hz, 6, CO2CH2CH3), 4.55 and 4.62 (2 q, J=7.5 Hz, 4, CO2CH2CH3), 8.17 (d, J=8 Hz, 1, 3'--H), 8.47 (dd, J=2.5 Hz, J=8 Hz, 1, 4'--H), 9.33 d, J=2.5 Hz, 1,6'--H).

reactant | 2,5-pyridinedicarboxylic acid | 0.6 mol, 100 g | N1=C(C=CC(=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
reactant | benzene | 200 mL | C1=CC=CC=C1 | C6H6
reactant | EtOH | 300 mL | CCO | C2H6O
product | Diethyl Pyridine-2,5-dicarboxylate | 95 g | N1=C(C=CC(=C1)C(=O)OCC)C(=O)OCC | C11H13NO4
